data/oMe_Silver.jsonl
{"reaction_id": "NR-032_1-c1ccccc1_2-C","name": "Büchner-Curtius-Schlotterbeck Reaction","level": "medium","reactants_smiles": ["C(=O)(c1ccccc1)(C)","C=[N+]=[N-]"],"products_smiles": ["C(=O)(C)(Cc1ccccc1)"],"conditions": "","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([O-])(C[N+]#N)(c1ccccc1)(C)","step_weight": 0,"rationale": "The azide nitrogen lone pair attacks the electrophilic carbonyl carbon, whose partial positive charge is enhanced by the electron-withdrawing oxygen, forming a tetrahedral intermediate stabilized by resonance."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(C)(Cc1ccccc1)","step_weight": 0,"rationale": "Thermal conditions promote a 1,2-shift as nitrogen gas leaves, driven by the stability of the carbonyl and relief of electron deficiency at the migrating carbon."}],"description": "The reaction proceeds via nucleophilic addition of an organoazide to the carbonyl, forming a tetrahedral intermediate. Under the conditions, a 1,2-shift occurs, driven by nitrogen extrusion and formation of a more stable carbonyl product with rearranged substituents."}
{"reaction_id": "NR-331_1-C_2-C_3-C(C)C_4-C_5-CC(C)C","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(C)(C(C)C)C(=O)OC","O=C(C)CC(C)C","[Zn]"],"products_smiles": ["C(C(O)(C)CC(C)C)(C)(C(C)C)C(=O)OC"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "COC(=O)C(C)(C(C)C)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(C)CC(C)C)(C)(C(C)C)C(=O)OC.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(C)CC(C)C)(C)(C(C)C)C(=O)OC","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
